US05114936
In 1 liter dichloromethane was dissolved 55.0 g 2-fluorobenzaldehyde oxime at room temperature with stirring. The resulting solution was cooled to -10° C. and Cl2 was bubbled in at such a rate to maintain temperature below 15° C. After a dark blue color was generated (2-3 minutes) a solution of triethylamine (50 ml) in dichloromethane (100 ml) was added dropwise concurrently with Cl2 addition. When the reaction mixture had maintained a yellow color, additions of the triethylamine solution and Cl2 were discontinued. Concentration of the reaction mixture left an oil which was dissolved in ether and washed four times with 3N HCl followed by a final wash with brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give 60.0 g of 2-fluoro-N-hydroxybenzenecarboximidoyl chloride as an oil which solidified on standing.

reactant | 2-fluorobenzaldehyde oxime | 55.0 g | FC1=C(C=NO)C=CC=C1 | C7H6FNO
reactant | dichloromethane | 1 liter | ClCCl | CH2Cl2
product | 2-fluoro-N-hydroxybenzenecarboximidoyl chloride | 60.0 g | FC1=C(C=CC=C1)C(=NO)Cl | C7H5ClFNO
